US07045544B2
5-[(Bicyclo[2.2.1]hept-2-ylacetyl)amino]-N-phenyl-1-(2-phenylethyl)-1H-indole-2-carboxamide
Under argon, 78 mg (0.22 mmol) of 5-amino-N-phenyl-1-(2-phenylethyl)-1H-indole-2-carboxamide (Example LI) are dissolved in 2 ml of THF, and 24.4 mg (0.24 mmol) of triethylamine are added. The solution is cooled to 0° C., and a solution of 37.9 mg (0.22 mmol) of bicyclo[2.2.1]hept-2-ylacetyl chloride in 0.2 ml of THF is added dropwise. The reaction mixture is stirred at RT for 2 h and then diluted with 1-molar hydrochloric acid and extracted repeatedly with ethyl acetate. The combined organic phases are washed twice with saturated sodium chloride solution and once with sodium bicarbonate solution, dried over sodium sulphate and filtered. The residue obtained after removal of the solvent under reduced pressure is purified chromatographically on silica gel (mobile phase: dichloromethane/ethyl acetate). 31.5 mg (29% of theory) of the product are obtained.

reactant | 5-amino-N-phenyl-1-(2-phenylethyl)-1H-indole-2-carboxamide | 0.22 mmol, 78 mg | NC=1C=C2C=C(N(C2=CC1)CCC1=CC=CC=C1)C(=O)NC1=CC=CC=C1 | C23H21N3O
reactant | triethylamine | 0.24 mmol, 24.4 mg | C(C)N(CC)CC | C6H15N
reactant | bicyclo[2.2.1]hept-2-ylacetyl chloride | 0.22 mmol, 37.9 mg | C12C(CC(CC1)C2)CC(=O)Cl | C9H13ClO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 0.2 ml | C1CCOC1 | C4H8O
solvent | hydrochloric acid | 1-molar | Cl | ClH
product | 5-[(Bicyclo[2.2.1]hept-2-ylacetyl)amino]-N-phenyl-1-(2-phenylethyl)-1H-indole-2-carboxamide | C12C(CC(CC1)C2)CC(=O)NC=2C=C1C=C(N(C1=CC2)CCC2=CC=CC=C2)C(=O)NC2=CC=CC=C2 | C32H33N3O2
